US08304557B2
(iv) 3-(1-cyanocyclopropyl)-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}benzamide
To a solution of N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide (2.0 g, 5.4 mmol) in pyridine (60 mL) was added 4-methylbenzenesulfonyl chloride (1.13 g, 5.94 mmol) under ice-cooling, and the mixture was stirred with heating at 80° C. for 2 days. The reaction mixture was cooled to room temperature, water (200 mL) was added thereto, and the mixture was extracted with ethyl acetate (400 mL). The organic layer was washed with saturated brine (200 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was washed with ethyl acetate and diisopropyl ether to give the title compound (2.61 g, 92%) as a colorless solid.

reactant | N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide | 5.4 mmol, 2.0 g | NC1=CC=C(C=N1)OC=1C=C(C=CC1)NC(C1=CC(=CC=C1)C1(CC1)C#N)=O | C22H18N4O2
reactant | 4-methylbenzenesulfonyl chloride | 5.94 mmol, 1.13 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | water | 200 mL | O | H2O
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | 3-(1-cyanocyclopropyl)-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}benzamide | 2.61 g, 92% | C(#N)C1(CC1)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=NC(=CC2)NS(=O)(=O)C2=CC=C(C=C2)C)C=CC1 | C29H24N4O4S
